US07572801B2
To 3-phenylpropionic acid [501-52-0] (66.6 mg, 0.444 mmol) in DMF (4 ml) was added EDCI [25952-53-8] (102 mg, 0.532 mmol), HOBt [2592-95-2] (8 mg, 0.059 mmol) and NMM [109-02-4] (0.15 ml, 1.18 mmol) at 0° C. The reaction mixture was stirred at ambient temperature for 2 h, and then was added to a solution of the salt of 2-aminomethyl-3H-pyrido[2,3-d]pyrimidin-4-one (CH3CO2H, HBr) (100 mg) in DMF (2 ml). Stirring was continued for 18 h, the solvents were evaporated and the residue as redissolved in EtOAc/THF and a saturated solution of ammonium chloride. The inorganic layer was extracted with EtOAc. The combined organic phases were washed with brine, dried over Na2SO4, filtrated and evaporated. Column chromatography with CH2Cl2/MeOH 9:1, followed by trituration with TBME gave N-(4-oxo-3,4-dihydro-pyrido[2,3-d]pyrimidin-2-ylmethyl)-3-phenyl-propionamide (43.1 mg, 47%) as a off-white solid, MS (m/e): 309 [M+H+].

reactant | 3-phenylpropionic acid | 0.444 mmol, 66.6 mg | C1(=CC=CC=C1)CCC(=O)O | C9H10O2
reactant | EDCI | 0.532 mmol, 102 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 0.059 mmol, 8 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | NMM | 1.18 mmol, 0.15 ml | CN1CCOCC1 | C5H11NO
reactant | 2-aminomethyl-3H-pyrido[2,3-d]pyrimidin-4-one | 100 mg | NCC=1NC(C2=C(N1)N=CC=C2)=O | C8H8N4O
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | N-(4-oxo-3,4-dihydro-pyrido[2,3-d]pyrimidin-2-ylmethyl)-3-phenyl-propionamide | 43.1 mg, 47% | O=C1C2=C(N=C(N1)CNC(CCC1=CC=CC=C1)=O)N=CC=C2 | C17H16N4O2
